US03953476
4-Methylbenzoic acid (0.2 mole) is added to chlorosulfonic acid (50 ml.) and heated at reflux for about one hour, cooled and poured onto ice. The product, 3-chlorosulfonyl-4-methylbenzoic acid that separates is then employed in place of the 2,4-dichloro-5-chlorosulfonylbenzoic acid in the process described in Example 1, Step A, and then following the methods described in Steps A and B of Example 1 there is obtained 3-methylsulfonyl-4-methylbenzoic acid. This compound then is substituted for the 3-methylsulfonyl-4-chlorobenzoic acid employed in Step B of Example 55 and then by following substantially the same procedures described in Example 55, Steps B through E, there is obtained 3-furfurylamino-4-methyl-5-methylsulfonylbenzoic acid.

reactant | 4-Methylbenzoic acid | 0.2 mole | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | 3-chlorosulfonyl-4-methylbenzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1C | C8H7ClO4S
reactant | 2,4-dichloro-5-chlorosulfonylbenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)Cl | C7H3Cl3O4S
solvent | chlorosulfonic acid | 50 ml | ClS(=O)(=O)O | ClHO3S
product | 3-methylsulfonyl-4-methylbenzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1C | C9H10O4S
